US05240938
Step A: Preparation of methyl 2-(4-methylphenoxy)phenylacetate
To a cooled (0° C.) suspension of KH (2.12 g, 1.0 eq) in DMF (30 mL) was added a solution of p-cresol (2.00 g, 18.5 mmol) in 20 mL of DMF. The reaction mixture was stirred 15 minutes, then 18-crown-6 (200 mg) was added followed by a solution of 4.24 g (18.5 mmol) of methyl 2-bromophenylacetate dissolved in 10 mL of DMF. The reaction mixture was stirred 45 minutes, then partitioned between ethyl acetate and water. The organic layer was washed with water, brine, dried (MgSO4), filtered and evaporated in vacuo. The residue was purified on a silica gel flash chromatography column (150×40 mm) eluted with 5% ethyl acetate/hexane to yield 2.63 g (58%) of the title compound.

reactant | p-cresol | 18.5 mmol, 2.00 g | C1=CC(=CC=C1O)C | C7H8O
reactant | methyl 2-bromophenylacetate | 18.5 mmol, 4.24 g | BrC1=C(C=CC=C1)CC(=O)OC | C9H9BrO2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | 18-crown-6 | 200 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | methyl 2-(4-methylphenoxy)phenylacetate | 2.63 g, 58% | CC1=CC=C(OC2=C(C=CC=C2)CC(=O)OC)C=C1 | C16H16O3
